US07534797B2
1-(2-Phenyl-quinolin-7-yl)-3-piperidin-4-yl-imidazo[1,5-a]pyrazin-8-ylamine-tris HCl salt (59.0 mg, 0.1 mmol) was dissolved in triethylamine (1.0 mL) and DMF (0.5 mL). Acetic anhydride (12.0 μL, 0.1 mmol) was added and the reaction was stirred for 1 h. The reaction was concentrated in vacuo and purified by silica gel chromatography (Jones Flashmaster, 2 g/12 mL cartridge, eluting with 2% 7N NH3 in methanol/CH2Cl2). The sample was further purified using MDPS to yield 1-{4-[8-amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]piperidin-1-yl}ethanone as a pale yellow solid; 1H NMR (CDCl3, 400 MHz) δ 1.95 (ddd, 1H, J=22.4, 11.2, 4.0 Hz), 2.03-2.23 (m, 6H), 2.90 (ddd, 1H, J=13.6, 13.6, 2.8 Hz), 3.19-3.32 (m, 2H), 4.01 (bd, 1H, J=13.6 Hz), 4.64 (bd, 1H, J=13.2 Hz), 5.44 (bs, 2H), 7.11 (d, 1H, J=4.8 Hz), 7.24 (d, 1H, J=5.6 Hz), 7.46 (ddd, 1H, J=6.0, 2.4, 0.8 Hz), 7.50-7.54 (m, 2H), 7.86-7.94 (m, 3H), 8.16 (ddd, 2H, J=7.2, 3.6, 1.6 Hz), 8.24 (d, 1H, J=8.4 Hz), 8.38 (s, 1H); MS (ES+): m/z 463 (10) [MH+]; HPLC: tR=2.1 min (OpenLynx, polar—5 min).

reactant | 1-(2-Phenyl-quinolin-7-yl)-3-piperidin-4-yl-imidazo[1,5-a]pyrazin-8-ylamine-tris HCl salt | 0.1 mmol, 59.0 mg | Cl.Cl.Cl.C1(=CC=CC=C1)C1=NC2=CC(=CC=C2C=C1)C=1N=C(N2C1C(=NC=C2)N)C2CCNCC2
reactant | Acetic anhydride | 0.1 mmol, 12.0 μL | C(C)(=O)OC(C)=O | C4H6O3
solvent | triethylamine | 1.0 mL | C(C)N(CC)CC | C6H15N
solvent | DMF | 0.5 mL | CN(C)C=O | C3H7NO
product | 1-{4-[8-amino-1-(2-phenylquinolin-7-yl)imidazo[1,5-a]pyrazin-3-yl]piperidin-1-yl}ethanone | NC=1C=2N(C=CN1)C(=NC2C2=CC=C1C=CC(=NC1=C2)C2=CC=CC=C2)C2CCN(CC2)C(C)=O | C28H26N6O
